US06541473B2
4-(4-Methylenecyclohexyl)-1,3-benzenediol
To a round bottomed flask was added tert-butyl[5-{[tert-butyl(dimethyl)silyl]oxy}-2-(4-methylenecyclohexyl)phenoxy]dimethylsilane (40 mg), tetrahydrofuran (2 ml) and tetrabutylammonium fluoride (281 μl, 1.0M in tetrahydrofuran), and the mixture stirred at room temperature for 15 hr. The solvent was removed in vacuo and the residue partitioned between water (20 ml) and ethyl acetate (20 ml). The aqueous phase was extracted with ethyl acetate (2×20 ml), and the combined organic phases were washed with brine (20 ml), dried over magnesium sulfate, filtered and concentrated in vacuo. Purification via flash chromatography (SiO2, ethyl acetate/petroleum ether 2:3 v/v) furnished the title compound (17 mg, 90%) as a white solid. δH (CD3OD): 1.42-1.53 (2H, m), 1.90-1.99 (2H, m), 2.19-2.29 (2H, m), 2.39-2.47 (2H, m), 3.02 (1H, tt), 4.67 (2H, s), 6.28 (1H, dd), 6.31 (1H, d), 6.89 (1H, d); m/z (ES+) 205 (M+H)+.

reactant | tert-butyl[5-{[tert-butyl(dimethyl)silyl]oxy}-2-(4-methylenecyclohexyl)phenoxy]dimethylsilane | 40 mg | C(C)(C)(C)[Si](C)(C)OC1=C(C=CC(=C1)O[Si](C)(C)C(C)(C)C)C1CCC(CC1)=C | C25H44O2Si2
reactant | tetrabutylammonium fluoride | 1.0M, 281 μl | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | tetrahydrofuran | 2 ml | O1CCCC1 | C4H8O
product | 4-(4-Methylenecyclohexyl)-1,3-benzenediol | 17 mg, 90% | C=C1CCC(CC1)C1=C(C=C(C=C1)O)O | C13H16O2
